US03934032
A mixture of 50 g. of vanillin, 77 ml. of epichlorohydrin and 0.33 g. of piperidine hydrochloride is heated at 95°-100°C. for 4 hours. The excess epichlorohydrin is removed by evaporation under reduced pressure and the residue is distilled at 178°-183°C./0.6-0.7 mm. The distilled product is stirred rapidly with 400 ml. of aqueous N-sodium hydroxide solution for 4 hours, and the solid is extracted from the mixture with 400 ml. of chloroform. The chloroform solution is dried and evaporated to dryness and there is thus obtained as residue 1-(4-formyl-2-methoxyphenoxy)-2,3-epoxypropane, a pale yellow solid which is used without further purification. A solution of 5 g. of 1-(4-formyl-2-methoxyphenoxy)-2,3-epoxypropane and 50 ml. of isopropylamine in 50 ml. of chloroform is heated under reflux for 18 hours. The mixture is evaporated to dryness and the residue is crystallised from a mixture of benzene and petroleum ether (b.p. 60°-80°C.). There is thus obtained 1-[2-methoxy-4-(N-isopropyliminomethyl)phenoxy]-3-isopropylamino-2-propanol. A mixture of the above compound, 75 ml. of concentrated aqueous hydrochloric acid and 75 ml. of water is heated under reflux for 4 hours. The aqueous hydrochloric acid is removed by evaporation and the residue is partitioned between 100 ml. of chloroform and 100 ml. of aqueous 2N-hydrochloric acid. The aqueous acidic layer is separated, made alkaline with sodium carbonate and extracted twice with 100 ml. of chloroform each time. The combined extracts are dried and evaporated to dryness. The residual basic oil is converted to the oxalate thereof by conventional means, and the oxalate is crystallised from a mixture of methanol and water. The oxalate is reconverted to the free base by conventional means, and the base is crystallised from a mixture of ethyl acetate and petroleum ether (b.p. 60°-80°C.). There is thus obtained 3-isopropylamino-1-(4-formyl-2-methoxyphenoxy)-2-propanol, m.p. 56°-58°C.

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | piperidine hydrochloride | Cl.N1CCCCC1
product | 1-(4-formyl-2-methoxyphenoxy)-2,3-epoxypropane | C(=O)C1=CC(=C(OCC2CO2)C=C1)OC | C11H12O4
